US08686048B2
Intermediate 57: 3-chloro-3′-ethoxy-2′,5-difluorobiphenyl-4-amine
The title compound (65 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (120 mg, 0.53 mmol) and 3-ethoxy-2-fluorophenylboronic acid (120 mg, 0.69 mmol) as a colourless liquid.

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.53 mmol, 120 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-ethoxy-2-fluorophenylboronic acid | 0.69 mmol, 120 mg | C(C)OC=1C(=C(C=CC1)B(O)O)F | C8H10BFO3
product | 3-chloro-3′-ethoxy-2′,5-difluorobiphenyl-4-amine | 65 mg | ClC=1C=C(C=C(C1N)F)C1=C(C(=CC=C1)OCC)F | C14H12ClF2NO
